US08217069B2
3-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-5-methoxycarbonyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of methyl 5-(tert-butoxycarbonylamino)-6-iodopyridine-2-carboxylate (0.14 g), 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline (0.18 g), tris-(dibenzylideneacetone)dipalladium(0) (10 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (13 mg) and sodium tert-butoxide (48 mg) in tetrahydrofuran (3 mL) was heated at reflux for 22 hours. The reaction mixture was cooled to room temperature. To the reaction mixture was added acetic acid (0.02 mL), and the mixture was directly purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2−1/3) to give the title compound (81 mg).

reactant | methyl 5-(tert-butoxycarbonylamino)-6-iodopyridine-2-carboxylate | 0.14 g | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1I)C(=O)OC | C12H15IN2O4
reactant | 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline | 0.18 g | ClC1=C(N)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F | C15H14ClF2NO3
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 13 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium tert-butoxide | 48 mg | CC(C)([O-])C.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | tris-(dibenzylideneacetone)dipalladium(0) | 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | acetic acid | 0.02 mL | C(C)(=O)O | C2H4O2
product | 3-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-5-methoxycarbonyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 81 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C(NC=2C1=NC(=CC2)C(=O)OC)=O | C23H18ClF2N3O6
